US07528136B2
{(2S,4S)-1-Benzyl-4-[(3,5-bis-trifluoromethyl-benzyl)-methyl-amino]-pyrrolidin-2-yl}-(4-m-tolyl-piperazin-1-yl)-methanone
As described for Example 56b and 56d, 1-benzyl-4-oxo-pyrrolidine-2-carboxylic acid methyl ester (100 mg, 0.428 mmol) was converted, using (3,5-bis-trifluoromethyl-benzyl)-methyl-amine instead of 3,5-bis-trifluoromethyl-benzylamine, and using 1-m-tolyl-piperzine instead of 1-(3-trifluoromethyl-phenyl)-piperazine, to the title compound (12.1 mg, 13.4%) as light yellow oil. MS m/e=619.4[M+H]+.

reactant | 1-benzyl-4-oxo-pyrrolidine-2-carboxylic acid methyl ester | 0.428 mmol, 100 mg | COC(=O)C1N(CC(C1)=O)CC1=CC=CC=C1 | C13H15NO3
reactant | (3,5-bis-trifluoromethyl-benzyl)-methyl-amine | FC(C=1C=C(CNC)C=C(C1)C(F)(F)F)(F)F | C10H9F6N
reactant | 1-m-tolyl-piperzine | C1(=CC(=CC=C1)N1CCNCC1)C | C11H16N2
product | {(2S,4S)-1-Benzyl-4-[(3,5-bis-trifluoromethyl-benzyl)-methyl-amino]-pyrrolidin-2-yl}-(4-m-tolyl-piperazin-1-yl)-methanone | 12.1 mg, 13.4% | C(C1=CC=CC=C1)N1[C@@H](C[C@@H](C1)N(C)CC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)C(=O)N1CCN(CC1)C=1C=C(C=CC1)C | C33H36F6N4O
